US05770737
Preparation of N,N-Diphenyl-7-bromo-9,9-di-n-decyl-9H-fluorene-2-amine
Diphenylamine (5.60 g, 33.09 mmol) and toluene (56 ml, dried over CaCl2, distilled and degassed with nitrogen for 15 minutes) were added to a three-necked s round bottom flask equipped with a magnetic stir bar, thermometer, reflux condenser and an addition funnel containing n-butyllithium (20.8 ml of a 1.6M solution in hexanes, 33.28 mmol). The solution was cooled in a dry ice/acetone bath until the internal temperature was -5° C. The butyllithium was added dropwise so that the temperature never rose above 0° C. A white solid formed immediately. The reaction mixture was stirred at -5° C. for 90 minutes. While the reaction temperature was maintained at -5° C., tri-o-tolylphosphine (2.01 g, 6.60 mmol), 2,7-dibromo-9, 9-di-n-decyl-9H-fluorene (20,0 g, 33.08 mmol) and bis(dibenzylideneacetone)palladium(0) (0.33 9, 0.57 mmol) were added. The ice bath was removed and the mixture was heated in an oil bath for 72 hours at an internal temperature of 70° C. The toluene was then removed under reduced pressure. The product was purified by column chromatography using alumina and hexane to yield a light brown oil in 35.25%, yield. Mass Spec. m/z 691, 693 (M+). Elemental Analysis: Calculated for C45H58BrN: C, 78.01; H, 8.44; N, 2.02. Found: C, 79.32; H, 8.38; N, 1.51.

reactant | Diphenylamine | 33.09 mmol, 5.60 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | n-butyllithium | C(CCC)[Li]
reactant | tri-o-tolylphosphine | 6.60 mmol, 2.01 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 2,7-dibromo-9, 9-di-n-decyl-9H-fluorene | 33.08 mmol, 20,0 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCCCCC)CCCCCCCCCC | C33H48Br2
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.57 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | 56 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-Diphenyl-7-bromo-9,9-di-n-decyl-9H-fluorene-2-amine | C1(=CC=CC=C1)N(C1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCCCCC)CCCCCCCCCC)C1=CC=CC=C1 | C45H58BrN
